US07304071B2
3-(2-Phenylamino-pyrimidin-4-yl)-benzonitrile
To a solution of 3-(3-dimethylamino-acryloyl)-benzonitrile (30.4 g, 152 mmol) in acetonitrile (250 mL) was added a solution of phenylguanidine (21.0 g, 155 mmol) in acetonitrile (250 mL) and the mixture was heated at reflux for two hours. The solution was cooled and the resulting solid was filtered and washed with acetonitrile to afford the title compound.

reactant | 3-(3-dimethylamino-acryloyl)-benzonitrile | 152 mmol, 30.4 g | CN(C=CC(=O)C=1C=C(C#N)C=CC1)C | C12H12N2O
reactant | phenylguanidine | 155 mmol, 21.0 g | C=1C=CC(=CC1)NC(=N)N | C7H9N3
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 3-(2-Phenylamino-pyrimidin-4-yl)-benzonitrile | C1(=CC=CC=C1)NC1=NC=CC(=N1)C=1C=C(C#N)C=CC1 | C17H12N4
